US06171578B2
N-Boc-5-benzyloxyanthranilic acid, benzyl ester (70 g, 161 mmol) was added to a 1.4 M HCl/ethyl acetate solution (prepared by the addition of methanol to acetyl chloride and subsequent dilution with ethyl acetate). The reaction mixture was stirred at room temperature for 21 hours. After cooling to 0° C., the reaction was gently stirred for an additional 2 hours. The crystalline product was filtered off and washed with 50 ml of cold ethyl acetate. Trace solvents were removed under high vacuum to yield 5-benzyloxyanthranilic acid, benzyl ester, hydrochloride (53.4 g, 86% yield).

reactant | N-Boc-5-benzyloxyanthranilic acid, benzyl ester | 161 mmol, 70 g | C(=O)(OC(C)(C)C)NC=1C(C(=O)OCC2=CC=CC=C2)=CC(=CC1)OCC1=CC=CC=C1 | C26H27NO5
reactant | HCl ethyl acetate | 1.4 M | Cl.C(C)(=O)OCC
reactant | methanol | CO | CH4O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-benzyloxyanthranilic acid, benzyl ester, hydrochloride | 53.4 g, 86% yield | Cl.C(C1=CC=CC=C1)OC1=CC=C(C(C(=O)OCC2=CC=CC=C2)=C1)N | InChI=1S/C21H19NO3.ClH/c22-20-12-11-18(24-14-16-7-3-1-4-8-16)13-19(20)21(23)25-15-17-9-5-2-6-10-17;/h1-13H,14-15,22H2;1H
